US04956456
A mixture comprising 119 g of 5-methanesulfonylamino-1-naphthol, 100 g of zinc chloride and 500 ml of ethanol was heated at 50° C., and then a solution of 35 g of sodium nitrite as dissolved in 70 ml of water was added dropwise thereto at 50° to 65° C. After being heated and stirred at 60° to 65° C. for 2 hours, the resulting solution was cooled with water to room temperature, and reddish brown crystals formed were taken out by filtration and washed with ethanol. The crystals were added to 200 ml of concentrated hydrochloric acid and stirred for 1 hour at room temperature, and then 200 ml of water was added thereto. Yellowish brown crystals (2-nitroso-5-methanesulfonylamino-1-naphthol) formed were taken out by filtration, washed with water and dried. Yield: 90 g.

reactant | 5-methanesulfonylamino-1-naphthol | 119 g | CS(=O)(=O)NC1=C2C=CC=C(C2=CC=C1)O | C11H11NO3S
reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | sodium nitrite | 35 g | N(=O)[O-].[Na+]
solvent | water | 70 ml | O | H2O
catalyst | zinc chloride | 100 g | [Cl-].[Zn+2].[Cl-]
product | 2-nitroso-5-methanesulfonylamino-1-naphthol | N(=O)C1=C(C2=CC=CC(=C2C=C1)NS(=O)(=O)C)O | C11H10N2O4S
